US09403804B2
b) 1-(4-Amino-phenyl)-cyclohexane carbonitrile
A solution of 1-(4-nitro-phenyl)-cyclohexanecarbonitrile (0.500 g, 2.17 mmol, as prepared in the previous step) in EtOH (6 mL) and water (6 mL) was treated with NH4Cl (1.16 g, 21.7 mmol) and Fe powder (606 mg, 10.9 mmol) and heated to 50° C. for 2 h. The cooled mixture was filtered through Celite, and the filter cake was washed with MeOH. The solvents were evaporated in vacuo. The residue was partitioned between water (50 mL) and EtOAc (75 mL), and the layers were separated. The organic layer was dried over MgSO4 and concentrated in vacuo to afford the title compound (488 mg, 100%) as an orange oil. The compound was used in the following step without purification. Mass spectrum (ESI, m/z): Calcd. for C13H16N2, 201.1 (M+H). found 201.3.

reactant | 1-(4-nitro-phenyl)-cyclohexanecarbonitrile | [N+](=O)([O-])C1=CC=C(C=C1)C1(CCCCC1)C#N | C13H14N2O2
reactant | water | 6 mL | O | H2O
reactant | NH4Cl | 21.7 mmol, 1.16 g | [NH4+].[Cl-]
solvent | EtOH | 6 mL | CCO | C2H6O
catalyst | Fe | 10.9 mmol, 606 mg | [Fe] | Fe
product | 1-(4-Amino-phenyl)-cyclohexane carbonitrile | 488 mg, 100% | NC1=CC=C(C=C1)C1(CCCCC1)C#N | C13H16N2
